US07348354B2
2-(1H-Indol-3-yl)-ethylamine (tryptamine; 320 mg, 2 mmole) was dissolved in dry chloroform (10 ml) and combined with triethylamine (555 μl, 4 mmole). Thiophosgene (153 μl, 2 mmole) was added to this mixture. After a reaction time of 16 h, N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine was added and stirring continued for a further 16 h at RT. Working up was performed by extracting the batch with saturated NaHCO3 solution (3×20 ml). The organic phase was dried with Na2SO4 and evaporated. The product was a mixture of two diastereoisomers and could be purified by column chromatography [silica gel 60 (50 g); methanol (500 ml)]. The more polar diastereoisomer of 1-(4-dimethylamino-4-phenyl-cyclohexyl)-3-[2-(1H-indol-3-yl)-ethyl]-thiourea was obtained as a colorless foam in a yield of 185 mg (22%). The more nonpolar diastereoisomer of 1-(4-dimethylamino-4-phenyl-cyclohexyl)-3-[2-(1H-indol-3-yl)-ethyl]-thiourea was obtained as a colorless foam in a yield of 433 mg (52%).

reactant | 2-(1H-Indol-3-yl)-ethylamine | 2 mmole, 320 mg | N1C=C(C2=CC=CC=C12)CCN | C10H12N2
reactant | triethylamine | 4 mmole, 555 μl | C(C)N(CC)CC | C6H15N
reactant | Thiophosgene | 2 mmole, 153 μl | C(=S)(Cl)Cl | CCl2S
reactant | N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine | CN(C1(CCC(CC1)N)C1=CC=CC=C1)C | C14H22N2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-dimethylamino-4-phenyl-cyclohexyl)-3-[2-(1H-indol-3-yl)-ethyl]-thiourea | CN(C1(CCC(CC1)NC(=S)NCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C25H32N4S
